US07375101B2
7-Fluoro-3,4-dihydro-1-methyl-1H-1,4-benzodiazepine-2,5-dione
As illustrated in the scheme above, a mixture of 6-fluoro-1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione (1.00 g, 5.12 mmol) and glycine (0.385 g, 5.13 mmol) in glacial acetic acid (13 mL) was heated at reflux for 4 h. The reaction was cooled and concentrated in vacuo. Water was added to the residue, and the mixture was cooled to 0° C. NaHCO3 was added to adjust the pH of the aqueous layer to approximately 8, and then the aqueous layer was extracted with CH2Cl2 (4×). The combined organic phases were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was triturated with Et2O, the solvent was removed by filtration, and the resulting solid was washed with additional Et2O to provide the title compound as a slightly yellow solid (0.560 g, 52%). 1H-NMR (DMSO-d6): δ 8.80 (br s, 1H), 7.49-7.38 (m, 3H), 3.76 (br d, 1H), 3.47 (br d, 1H), 3.26 (s, 3H). MS (ESI) (M+H)+=209.

reactant | 6-fluoro-1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | 5.12 mmol, 1.00 g | FC=1C=CC2=C(C(OC(N2C)=O)=O)C1 | C9H6FNO3
reactant | glycine | 5.13 mmol, 0.385 g | NCC(=O)O | C2H5NO2
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | 7-Fluoro-3,4-dihydro-1-methyl-1H-1,4-benzodiazepine-2,5-dione | FC=1C=CC2=C(C(NCC(N2C)=O)=O)C1 | C10H9FN2O2
